US06939928B1
(1) Synthesis of (1-methyl-1-cyclohexyl)cyclopentadiene
To a solution of 6.50 g (44.5 mmol) of cyclohexylfulvene in 60 ml of THF, 44.8 ml (51.1 mmol) of an ether solution of methyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. After the reaction solution was diluted with 100 ml of ether, 30 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was isolated and purified by column chromatography (silica gel, developing solvent: hexane) to obtain 2.72 g (16.76 mmol) of a colorless transparent liquid (yield: 38%). The analyzed values are given below.

reactant | cyclohexylfulvene | 44.5 mmol, 6.50 g | C1(CCCCC1)C1=CC=CC1=C | C12H16
reactant | methyllithium | C[Li]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | ether | 51.1 mmol, 44.8 ml | CCOCC | C4H10O
product | (1-methyl-1-cyclohexyl)cyclopentadiene | 16.76 mmol, 2.72 g, yield: 38% | CC1(CCCCC1)C1=CC=CC1 | C12H18
